US04929741
A solution of 8 g (62.4 mmol) of 1-(1-ethoxyethoxy)-2propyne in 135 ml of tetrahydrofuran was treated at -78° under argon with 39 ml of n-butyllithium (1.6M in hexane). The mixture was stirred at -40° for 30 minutes and then a solution of 12.3 g (62.4 mmol) of 2,3,4-trimethoxybenzaldehyde in 53 ml of tetrahydrofuran was added within 10 minutes. The reaction mixture was warmed to 0°, stirred at 0° for a further 1 hour and then treated with 100 ml of saturated ammonium chloride solution. The aqueous phase was extracted twice with ethyl acetate. The combined organic phases were washed in succession with saturated sodium chloride solution and with water, dried over magnesium sulphate and concentrated. The residue was purified by flash chromatography on 600 g of silica gel (elution agent ether/hexane 1:1). There was obtained 4-(1-ethoxyethoxy)-1-(2,3,4-trimethoxyphenyl)-2 -butyn- 1-ol as a yellow oil.

reactant | 1-(1-ethoxyethoxy)-2propyne | 62.4 mmol, 8 g | C(C)OC(C)OCC#C | C7H12O2
reactant | n-butyllithium | 1.6M, 39 ml | C(CCC)[Li]
reactant | 2,3,4-trimethoxybenzaldehyde | 62.4 mmol, 12.3 g | COC1=C(C=O)C=CC(=C1OC)OC | C10H12O4
reactant | ammonium chloride | 100 ml | [Cl-].[NH4+]
solvent | tetrahydrofuran | 135 ml | O1CCCC1 | C4H8O
solvent | tetrahydrofuran | 53 ml | O1CCCC1 | C4H8O
product | 4-(1-ethoxyethoxy)-1-(2,3,4-trimethoxyphenyl)-2 -butyn- 1-ol | C(C)OC(C)OCC#CC(O)C1=C(C(=C(C=C1)OC)OC)OC | C17H24O6
